US05702637
(R)-Benzylglycidyl ether (2.0 g, 12.2 mmol, prepared essentially as described by Byun et al. in Tet. Lett. 30, 2751 (1989)) was added dropwise to a 120° C. solution of potassium carbonate (0.17 g, 1.2 mmol) in 4-nonafluorobutoxy-2,2,3,3,4,4-hexafluoro-1-butanol (5.1 g, 12.2mmol). The resulting mixture was stirred for 3 hours at 120° C. and was then cooled to ambient temperature and distilled (0.6 torr, 110°-130° C.) to give 6.25 g of 1-benzyloxy-(R)-2-hydroxy-3-(4-(nonafluorobutoxy)-2,2,3,3,4,4-hexafluorobutoxy)propane.

reactant | (R)-Benzylglycidyl ether | C(C1=CC=CC=C1)OC[C@H]1CO1 | C10H12O2
reactant | potassium carbonate | 1.2 mmol, 0.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-nonafluorobutoxy-2,2,3,3,4,4-hexafluoro-1-butanol | 12.2mmol, 5.1 g | FC(C(C(OC(C(C(CO)(F)F)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C8H3F15O2
product | 1-benzyloxy-(R)-2-hydroxy-3-(4-(nonafluorobutoxy)-2,2,3,3,4,4-hexafluorobutoxy)propane | 6.25 g | C(C1=CC=CC=C1)OC[C@H](COCC(C(C(F)(F)OC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)O | C18H15F15O4
